### PR TITLE
Add Frobenius elements

### PR DESCRIPTION
**Pull request by jouglasheen**
Frobenius elements

### CODE REVIEW

**Comment by kbuzzard** [comment]
@jjaassoonn @jouglasheen can you clarify why there are two files here? My instinct is to merge this PR (but ideally with the file in `for_mathlib`) and then refactor it until it's appropriate to go into mathlib.

**Comment by jouglasheen** [comment]
@kbuzzard @jjaassoonn CrazyFrobenius.lean is an obsolete version of ExistsFrobenius.lean. We can delete CrazyFrobenius.lean.

**Comment by kbuzzard** [comment]
Can you delete it and bump to current `main`? Or is this hard?

**Comment by jouglasheen** [comment]
I tried to delete the file by right-clicking this: 
image
but apparently that's not the way to do it. I don't know how to delete it or bump to the main branch.

File: FLT/CrazyFrobenius.lean [hunk 1]
```diff
@@ -0,0 +1,986 @@
...
+
+namespace CRTRepresentative.auxiliary
+
+variable {A K L B} in
+-- Amelia helped me to write the following definition.
+/-- Function assigning a representative non-zero prime of type `(Ideal' A K L B)`
+to an element in the orbit of `Q` under the action of the Galois group `L ≃ₐ[K] L`.
+We will consider the orbit to be a 'Fintype', as used in the statement of
+the Chinese Remainder Theorem. -/
+noncomputable def f :
```
Comment (joelriou) [inline FLT/CrazyFrobenius.lean:189]: This is a special case of https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/GroupAction/Quotient.html#MulAction.ofQuotientStabilizer

**Comment by semorrison** [comment]
> I tried to delete the file by right-clicking this: image but apparently that's not the way to do it. I don't know how to delete it or bump to the main branch.

@jouglasheen, to delete the file, do it on the command line: `git rm FLT/CrazyFrobenius.lean` and then commit and push as usual.

**Comment by semorrison** [comment]
@jouglasheen:

> I don't know how to ... bump to the main branch.

You can just do:
```
git checkout CrazyFrobenius
git fetch
git merge origin/main
```
If the merge works, then just `git push`. Otherwise, learn how to deal with git conflicts. :-)

File: FLT/ExistsFrobenius.lean [hunk 2]
```diff
@@ -0,0 +1,969 @@
...
+  [Algebra A B] [Field K] [Field L]
+  [IsDomain A] [IsDomain B]
+  [Algebra A K] [IsFractionRing A K]
+  [Algebra B L] [Algebra K L] [Algebra A L]
+  [IsScalarTower A B L] [IsScalarTower A K L]
+  [IsIntegralClosure B A L] [FiniteDimensional K L] [IsFractionRing B L]
+  [IsDedekindDomain A] [IsDedekindDomain B]
+
+/-- re-definition of `Ideal B` in terms of 'AKLB setup'. -/
+@[nolint unusedArguments] abbrev Ideal' (A K L B : Type*) [CommRing A]
```
Comment (semorrison) [inline FLT/ExistsFrobenius.lean:119]: Naming things with `'` is rarely a good idea. Can you think up a name that gives the human a hint? Even `AKLB_Ideal`?

Comment (semorrison) [reply FLT/ExistsFrobenius.lean:119]: Alternatively can you make it `private`??

File: FLT/CrazyFrobenius.lean [hunk 3]
```diff
@@ -0,0 +1,986 @@
...
+  simp only [Ideal.Quotient.algebraMap_eq, coe_evalRingHom, expand_eval, map_pow]
+
+lemma quotient_F_is_product_of_quot :
+    (Polynomial.map (Ideal.Quotient.mk Q) F) =
+    ∏ τ : L ≃ₐ[K] L, (X - C ((Ideal.Quotient.mk Q) ((galRestrict A K L B τ) β))) := by
+  rw[← Polynomial.coe_mapRingHom]
+  erw[map_prod]
+  simp only [map_sub, coe_mapRingHom, map_X, map_C]
+
+lemma quotient_F_is_root_iff_is_conjugate (x : (B ⧸ Q)) :
```
Comment (joelriou) [inline FLT/CrazyFrobenius.lean:711]: It seems to me that many lemmas and definitions until here would apply to any element in `B` instead of the carefully chosen `β`. It may be worth generalizing the construction of `F`, etc, in that generality.

**Comment by jouglasheen** [comment]
@semorrison @joelriou Thank you very much for the reviews and help with github. I have succeeded in deleting the obsolete file and I think I have succeeded in merging to the main branch.          

Please, excuse some delay in responding to your reviews (I am currently studying for exams).

**Review by kbuzzard — COMMENTED** [review]
Thanks!
